US05718716
We have discovered a process for producing a suture from copolymers of glycolide and ε-caprolactone comprising the steps of (a) extruding a melted copolymer of a glycolide and ε-caprolactone resin through an orifice and rapidly quenching the melted copolymer resin to produce a filament; (b) drawing the filament in the range of from about 4× to about 7.5× to produce a singly drawn filament; (c) drawing the singly drawn filament in the range of form about 1× to about 3× in a first heated zone being maintained at a temperature in the range of from about 150° F. to about 450° F., to form a doubly drawn filament; (d) shrinking the doubly drawn filament in the range of from about 0.75 percent to about 0.98 percent, in a second heated zone being maintained at a temperature in the range of from about 100° F. to about 400° F., to form a relaxed filament then rack annealing the relaxed filament to form a glycolide/ε-caprolactone suture.

reactant | glycolide | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | ε-caprolactone | C1(CCCCCO1)=O | C6H10O2
product | glycolide ε-caprolactone | C1C(=O)OCC(=O)O1.C1(CCCCCO1)=O | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
